US04554100
Benzyloxycarbonyl Alanine Ethylamide
14 ml. of N-ethyl piperidine was added to a solution of 23.3 grams of benzyloxycarbonyl alanine in 100 ml. of tetrahydrofuran and, after cooling to -10 degrees C., 14 ml. of sec. butyl chlorformate was added. Next, the mixture was stirred for 8 minutes and cooled to -6 degrees C. Then 30 ml. of a 4.1 solution of ethylamine in tetrahydrofuran was added. After 30 minutes of stirring at 0 degrees C. and 2 hours of stirring at room temperature, the reaction solution was evaporated, gradually shaken with a 5% solution of sodium hydrogen carbonate, with water, dried with anhydrous sodium carbonate, and evaporated. The evaporation residue was crystallized from ethyl acetate (30 ml.) and petroleum ether. 18.1 g of a product having a melting point of 116 to 117 degrees C. was obtained.

reactant | N-ethyl piperidine | C(C)N1CCCCC1 | C7H15N
reactant | benzyloxycarbonyl alanine | 23.3 grams | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | sec. butyl chlorformate | ClC(=O)OC(C)CC | C5H9ClO2
reactant | ethylamine | C(C)N | C2H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Benzyloxycarbonyl Alanine Ethylamide | C(C)NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O | C13H18N2O3
